US06664271B1
1-benzoyl-3-piperidinecarbonyl chloride (1.01 g; 4.02 mmol) was dissolved in dry tetrahydrofuran (30 ml) under a nitrogen atmosphere, and cooled to −20° C. Tributylphosphine (1.1 ml; 4.4 mmol) was then added and after 20 minutes of stirring at −20° C., propylmagnesium chloride (2 ml; 4.0 mmol; 2 M in ether) was added. After stirring for 5 minutes, the reaction was quenched by addition of 1 N HCl (5 ml), and the mixture was allowed to warm to ambient temperature. It was then diluted with 1 N HCl and extracted with diethyl ether. The ether was washed with saturated sodium bicarbonate solution, and then brine. It was then dried with anhydrous magnesium sulfate and evaporated at ambient temperature under reduced pressure. The crude product was purified by chromatography on silica eluting with 50% ethyl acetate in hexane, giving 1-benzoyl-3-butyrylpiperidine (401.7 mg) as a colorless oil. MS m/z (positive ion) 260 (MH+; 100).

reactant | 1-benzoyl-3-piperidinecarbonyl chloride | 4.02 mmol, 1.01 g | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)Cl | C13H14ClNO2
reactant | Tributylphosphine | 4.4 mmol, 1.1 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | propylmagnesium chloride | 4.0 mmol, 2 M, 2 ml | C(CC)[Mg]Cl
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-benzoyl-3-butyrylpiperidine | 401.7 mg | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(CCC)=O | C16H21NO2
